US06908936B2
2-(2-Benzotriazol-1-ylmethyl-benzimidazol-1-yl)-N-methyl Acetamide
1-(1H-Benzimidazol-2-ylmethyl)-1H-benzotriazole (500 mg, 2.00 mmol) was dissolved in anhydrous N,N-dimethylformamide (10 mL). Potassium carbonate (1.11 g, 8.00 mmol) and 2-chloro-N-methylacetamide (237 mg, 2.20 mmol) were added. The reaction mixture was allowed to stir overnight at reflux. The solvent was evaporated under vacuum, and the white waxy residue taken up in methylene chloride (300 mL). The organic extract was washed with saturated aqueous sodium bicarbonate (2×100 mL), dried over magnesium sulfate, filtered and evaporated. The residue was purified by chromatography (CH2Cl2/MeOH=15:1) to give 304 mg (47%) of the title compound as a white solid.

reactant | 1-(1H-Benzimidazol-2-ylmethyl)-1H-benzotriazole | 2.00 mmol, 500 mg | N1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C14H11N5
reactant | Potassium carbonate | 8.00 mmol, 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N-methylacetamide | 2.20 mmol, 237 mg | ClCC(=O)NC | C3H6ClNO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(2-Benzotriazol-1-ylmethyl-benzimidazol-1-yl)-N-methyl Acetamide | 304 mg, 47% | N1(N=NC2=C1C=CC=C2)CC2=NC1=C(N2CC(=O)NC)C=CC=C1 | C17H16N6O
